US07897595B2
To a solution of 5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol hydrobromide (1.76 g, 6.79 mmol) in DCM (50 ml) and DMF (10 ml) was added Et3N (2.90 ml, 20.7 mmol) and TFAA (1.00 ml, 6.90 mmol). The mixture was stirred for 2 h at ambient temperature, concentrated in vacuo and parted between sat. aq. NaHCO3 and EtOAc. The organic phase was dried, concentrated in vacuo and purified by column chromatography to yield 1.46 g (77%) of 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol. 1H-NMR (DMSO-d6) δ 11.43 (br s, 1H), 7.30 (m, 1H), 6.18 (m, 1H), 3.95-3.42 (m, 4H), 3.06-2.96 (m, 2H), 2.95-2.87 (m, 1H), 1.12 (2× d, 3H) ppm. A mixture of 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (1.36 g, 4.96 mmol) and NIS (1.12 g, 4.96 mmol) in TFA (2 ml) and AcOH (36 ml) was stirred at room temperature for 16 h. Evaporation of TFA and AcOH followed by chromatographic purification of the resulting residue gave 1.95 g (98%) of 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol. 1H-NMR (CDCl3) δ 7.86 (s, 1H), 4.17-3.41 (m, 4H), 3.20-2.94 (m, 3H), 1.26 (2× d, 3H) ppm. A mixture of 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (50.0 mg, 125 μmol) and K2CO3 (17.3 mg, 125 μmol) in MeOH (10 ml) was heated at reflux for 4 h. The reaction mixture was concentrated in vacuo and purified by column chromatography rendering 20.2 mg (53%) of 3-iodo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol. 1H-NMR (CDCl3) δ 7.90 (s, 1H), 3.09-2.80 (m, 7H), 1.28 (d, 3H) ppm.

reactant | 5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol hydrobromide | 6.79 mmol, 1.76 g | Br.CC1C2=C(CCNC1)N=C(C=C2)O
reactant | Et3N | 20.7 mmol, 2.90 ml | CCN(CC)CC | C6H15N
reactant | TFAA | 6.90 mmol, 1.00 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 1.46 g, 77% | CC1C2=C(CCN(C1)C(C(F)(F)F)=O)N=C(C=C2)O | C12H13F3N2O2
